US06124287
By reacting 2,3-dichloro-6,7-difluoroquinoxaline with aminoacetaldehyde dimethyl acetal, following a procedure that is similar to that described in example 1, there is obtained 7,8-difluoroimidazo[1,2-a]quinoxalin-4(5H)-one (m.p. >300° C.) and, subsequently, 4-chloro-7,8-difluoroimidazo[1,2-]quinoxaline. By reacting this product with cyclopentylamine according to the method described in example 3, there is obtained 4-cyclopentylamino-7,8-dichloroimidazo[1,2-a]quinoxaline. m.p. (DSC)=146.0° C.(onset); IR (KBr): 3263, 2955, 1554 cm-1 ; 1H-NMR (CDCl3): δ7.7 (1H,s), 7.65÷7.15 (3H,m), 6.1 (1H,d), 4.6 (1H,m), 2.3÷1.3 (8H,m); UV (EtOH): λmax =225, 241, 270, 295, 323, 337 nm. Elementary analysis for C15H14F2N4 (m.w. 288.30): calcd. C 62.49, H 4.89, N 19.43%; found C 62.46, H 5.03, N 19.65%.

reactant | 2,3-dichloro-6,7-difluoroquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1Cl)F)F | C8H2Cl2F2N2
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
product | 7,8-difluoroimidazo[1,2-a]quinoxalin-4(5H)-one | FC=1C=C2NC(C=3N(C2=CC1F)C=CN3)=O | C10H5F2N3O
